US07049307B2
To a stirred solution of 1-[2-(2,2-dimethoxyethyl)-2H-indazol-6-yl]-3-(4-phenoxyphenyl)urea (1.5 g, 3.47 mmol) in acetone (250 mL) was added 2N aqueous HCl (10 mL) and the reaction was heated to reflux for 72 hours. The mixture was allowed to cool and was concentrated under reduced pressure to a volume of 30 mL. Ethyl acetate (300 mL) was added to the slurry with stirring and the mixture was filtered. The solid was washed with additional ethyl acetate (10 mL) and air-dried to provide 1-[2-(2-oxo-ethyl)-2H-indazol-6-yl]-3-(4-phenoxyphenyl)urea. 1H NMR (300 MHz, DMSO-D6) δ ppm 5.38 (s, 2 H), 6.98 (m, 5 H), 7.09 (m, 1 H), 7.36 (m, 2 H), 7.49 (m, 2 H), 7.65 (m, 1 H), 7.87 (s, 1 H), 8.27 (s, 1 H), 8.87 (m, 2 H), 9.66 (s, 1 H); MS (ESI) 385 (M−H)−.

reactant | 1-[2-(2,2-dimethoxyethyl)-2H-indazol-6-yl]-3-(4-phenoxyphenyl)urea | 3.47 mmol, 1.5 g | COC(CN1N=C2C=C(C=CC2=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1)OC | C24H24N4O4
reactant | HCl | 2N, 10 mL | Cl | ClH
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | 1-[2-(2-oxo-ethyl)-2H-indazol-6-yl]-3-(4-phenoxyphenyl)urea | O=CCN1N=C2C=C(C=CC2=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C22H18N4O3
